US05318966
0.53 g (0.014 mol) of lithium aluminum hydride was suspended in 25 ml of THF under argon. A solution of 2.0 g (0.007 mol) of rac-cis-3-cyclopentyl-1,3,3a,4,5,9b-hexahydro-6-methoxy-2H-benzo[e]indol-2-one in 50 ml of THF was added dropwise thereto and the mixture was boiled under reflux for 1 hour. 10 ml of a saturated aqueous NH4Cl solution was cautiously added dropwise thereto and the mixture was filtered. The filtrate was extracted with ethyl acetate, the organic phase was washed with water, dried with MgSO4, filtered and the filtrate was concentrated. There were obtained 1.8 g (95%) of oily rac-cis-3-cyclopentyl-2,3,3a,4,5,9b-hexahydro-6-methoxy-1H-benzo[e]indole.

reactant | lithium aluminum hydride | 0.014 mol, 0.53 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | rac-cis-3-cyclopentyl-1,3,3a,4,5,9b-hexahydro-6-methoxy-2H-benzo[e]indol-2-one | 0.007 mol, 2.0 g | C1(CCCC1)N1C(C[C@@H]2C3=C(CC[C@H]12)C(=CC=C3)OC)=O | C18H23NO2
reactant | NH4Cl | 10 ml | [NH4+].[Cl-]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | rac-cis-3-cyclopentyl-2,3,3a,4,5,9b-hexahydro-6-methoxy-1H-benzo[e]indole | 1.8 g, 95% | C1(CCCC1)N1CC[C@@H]2C3=C(CC[C@H]12)C(=CC=C3)OC | C18H25NO
